US05565568
Synthesis of 2-amino-3-(1H-indol-3-yl)-N-(2-methoxybenzyl)propanamide
To a mixture of the 2-t-butoxycarbonylamino-3-(1H-indol-3-yl)-N-(2-methoxybenzyl)propanamide prepared supra (25.1 g, 59.2 mmol) and anisole (12 ml, 110.4 mmol) at 0° C. was added dropwise an aqueous solution of trifluoroacetic acid (118 ml, 1.53 mol) in 50 ml of water. This mixture was stirred for one hour at 0° C., followed by stirring for about 2.5 hours at ambient temperature. The mixture was then refrigerated for about 16 hours.

reactant | 2-t-butoxycarbonylamino-3-(1H-indol-3-yl)-N-(2-methoxybenzyl)propanamide | C(C)(C)(C)OC(=O)NC(C(=O)NCC1=C(C=CC=C1)OC)CC1=CNC2=CC=CC=C12 | C24H29N3O4
reactant | anisole | 110.4 mmol, 12 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.53 mol, 118 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 50 ml | O | H2O
product | 2-amino-3-(1H-indol-3-yl)-N-(2-methoxybenzyl)propanamide | NC(C(=O)NCC1=C(C=CC=C1)OC)CC1=CNC2=CC=CC=C12 | C19H21N3O2
